US08252798B2
2-Cyclopropyl-benzaldehyde
A 60 mL reaction vial is charged with 2-bromo-benzaldehyde (10.810 mmoles, 1.264 mL), cyclopropylboronic acid (14.053 mmoles, 1.207 g), potassium phosphate tribasic N-hydrate (37.834 mmoles, 8.031 g), tricyclohexylphosphine (1.081 mmoles, 303.139 mg), toluene (283.654 mmoles, 30.000 mL), and water (83.263 mmoles, 1.500 mL). The mixture is then thoroughly degassed. Next, Pd(OAc)2 (540.482 μmoles, 121.343 mg) is added and the mixture is placed under nitrogen and heated to 100° C. After 2 hours, cool to room temperature and dilute with ethyl acetate (50 mL) and brine (50 mL). Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate under reduced pressure. Purify by silica gel chromatography eluting with hexanes: dichloromethane 20-50% to afford the title compound. 1H NMR (400.31 MHz, cdcl3): 10.57 (s, 1H), 7.78 (dd, J=1.3, 7.9 Hz, 1H), 7.45 (td, J=7.5, 1.3 Hz, 1H), 7.28 (t, J=7.5 Hz, 1H), 7.09 (d, J=7.9 Hz, 1H), 2.63-2.56 (m, 1H), 1.07-1.02 (m, 2H), 0.77-0.73 (m, 2H).

reactant | 2-bromo-benzaldehyde | 10.810 mmoles, 1.264 mL | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | cyclopropylboronic acid | 14.053 mmoles, 1.207 g | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 1.081 mmoles, 303.139 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | toluene | 283.654 mmoles, 30.000 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | 83.263 mmoles, 1.500 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | brine | 50 mL | [Cl-].[Na+].O
catalyst | Pd(OAc)2 | 540.482 μmoles, 121.343 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-Cyclopropyl-benzaldehyde | C1(CC1)C1=C(C=O)C=CC=C1 | C10H10O
